US05574064
Synthesis of N1 -(1-methyl-2-phenylthioethyl)-N2 -phenoxycarbonyl-L-valinamide (Compound No. 212)
1.3 g of N-methylmorpholine was added to a suspension containing 3.0 g of N1 -(1-methyl-2-phenylthioethyl)-L-valinamide hydrochloride suspended in 80 ml of methylene chloride, at -15° C. After 1.9 g of phenyl chloroformate was added to the mixture at -15° C., the reaction mixture was allowed to sit and warm naturally to room temperature while being stirred, and was stirred for 15 hours at room temperature. Water was subsequently added to the reaction mixture. After the methylene chloride layer was washed with water, the organic layer was dried over anhydrous magnesium sulfate and the methylene chloride was removed under reduced pressure. The residue was purified by column chromatography on silica gel, thus obtaining 2.3 g of the desired product in the form of a white crystal (yield: 54%).

reactant | N-methylmorpholine | 1.3 g | CN1CCOCC1 | C5H11NO
reactant | N1 -(1-methyl-2-phenylthioethyl)-L-valinamide hydrochloride | 3.0 g | Cl.CC(CSC1=CC=CC=C1)NC([C@@H](N)C(C)C)=O
reactant | phenyl chloroformate | 1.9 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Water | O | H2O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | N1 -(1-methyl-2-phenylthioethyl)-N2 -phenoxycarbonyl-L-valinamide | 2.3 g | CC(CSC1=CC=CC=C1)NC([C@@H](NC(=O)OC1=CC=CC=C1)C(C)C)=O | C21H26N2O3S
